US04835180
A mixture of 30.9 g (0.28 mol) of p-aminophenol in about 300 mL of acetone was stirred in an ice bath and a solution of 25 g (0.14 mol) of 4-bromobutyryl chloride in about 50 mL of acetone was dripped in over 20 minutes. The reaction was stirred cold for another 1/2 hour and then at room temperature for two hours. It was then ice cooled and the mixture filtered. The precipitate was washed with about 200 mL of cold acetone. The filtrate was evaporated and the residue slurried in about 200 mL of 1N HCl, whereupon a precipitate formed. The mixture was ice cooled, filtered, and the precipitate was washed with additional 1N HCl followed by water. The precipitate was dissolved in about 100 mL of ethanol at room temperature, diluted with about 160 mL of water, ice cooled and filtered. The precipitate was washed with a mixture of water and ethanol and then with hexane to yield 18.1 g (52%) of 4-bromo-N-(4-hydroxyphenyl)butanamide, mp 142.5°-144.5° C.

reactant | p-aminophenol | 0.28 mol, 30.9 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | 4-bromobutyryl chloride | 0.14 mol, 25 g | BrCCCC(=O)Cl | C4H6BrClO
solvent | acetone | about 300 mL | CC(=O)C | C3H6O
solvent | acetone | about 50 mL | CC(=O)C | C3H6O
product | 4-bromo-N-(4-hydroxyphenyl)butanamide | 18.1 g, 52% | BrCCCC(=O)NC1=CC=C(C=C1)O | C10H12BrNO2
